US07608633B2
A. Methyl-3-acetylindole-5-carboxylate
In a three-neck flask, 4.20 ml (9.25 mmol) of a 2.2 M ZnCl2 solution in 20 ml absolute dichloromethane is charged under nitrogen and the solution is cooled to 0° C. using an ice bath. Thereafter, 5.62 ml (8.99 mmol) of a 1.6 M n-butyllithium solution are slowly added drop-wise. The reaction mixture is heated to room temperature, stirred for 1 hour, then admixed with the solution of 1.50 g (8.56 mmol) methylindole-5-carboxylate in 20 ml absolute dichloromethane and stirred again at room temperature for one hour. Thereafter, the batch is cooled to 0° C. and 1.28 ml (18.1 mmol) acetylchloride is carefully added so as to form an orange suspension. The latter is stirred at room temperature for 1 hour. Then, 0.93 g (7.02 mmol) aluminum chloride is added. After another hour of stirring at room temperature, hydrolysis with semi-saturated NaCl solution is carried out and 100 ml ethyl acetate and 20 ml tetrahydrofurane are added. Three extractions are carried out using ethyl acetate, the combined organic phases are washed with saturated NaCl solution and the organic phase is dried on sodium sulfate. The solvent is distilled off. Chromatographic purification of the residue on silica gel (flow agent: hexane/ethyl acetate 3:2) yields the product as a solid.

reactant | n-butyllithium | 1.6 M | C(CCC)[Li]
reactant | methylindole-5-carboxylate | 8.56 mmol, 1.50 g | COC(=O)C=1C=C2C=CNC2=CC1 | C10H9NO2
reactant | acetylchloride | 18.1 mmol, 1.28 ml | C(C)(=O)Cl | C2H3ClO
reactant | aluminum chloride | 7.02 mmol, 0.93 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | NaCl | [Na+].[Cl-]
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
catalyst | ZnCl2 | 2.2 M | [Cl-].[Cl-].[Zn+2]
solvent | tetrahydrofurane | 20 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | Methyl-3-acetylindole-5-carboxylate | COC(=O)C=1C=C2C(=CNC2=CC1)C(C)=O | C12H11NO3
